US05093363
To a solution of 1.0 g (3.84 mmol) of tert-butyl [(4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxane-4-yl]acetate, 2.01 g (7.68 mmol) of triphenylphosphine, 0.523 g (7.68 mmol) of imidazole and 11.5 ml of anhydrous benzene was added 1.46 g (5.8 mmol) of iodine with stirring and cooling with ice, and then reacted for 2.5 hours at room temperature. The deposited crystal was filtered, and the obtained crystal was washed with ether. The filtrate and the washings were combined and distilled away under reduced pressure. The residue was purified by subjecting to silica gel column chromatography [eluent: hexane-methylene chloride (1:1), successively ethyl acetate-methylene chloride (1:9)]to give 1.41 g of tert-butyl [(4R,6S)-6-(iodomethyl)-2,2-dimethyl-1,3-dioxane-4-yl]acetate as syrups (yield: 99%).

reactant | tert-butyl [(4R,6S)-6-(hydroxymethyl)-2,2-dimethyl-1,3-dioxane-4-yl]acetate | 3.84 mmol, 1.0 g | OC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C13H24O5
reactant | triphenylphosphine | 7.68 mmol, 2.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 7.68 mmol, 0.523 g | N1C=NC=C1 | C3H4N2
reactant | iodine | 5.8 mmol, 1.46 g | II | I2
solvent | ethyl acetate methylene chloride | C(C)(=O)OCC.C(Cl)Cl
solvent | hexane methylene chloride | CCCCCC.C(Cl)Cl
solvent | benzene | 11.5 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl [(4R,6S)-6-(iodomethyl)-2,2-dimethyl-1,3-dioxane-4-yl]acetate | 1.41 g, yield: 99% | IC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C13H23IO4
